US06159979
N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-5-(2-methylphenyl)naphth-1-ylacetamide
The title compound was prepared from 5-bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide (E20) and 2-methylphenylboronic acid using a similar procedure to Example 4 (48%).

reactant | 5-bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-ylacetamide | BrC1=C2C=CC=C(C2=CC=C1)CC(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C24H26BrN3O2
reactant | 2-methylphenylboronic acid | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-5-(2-methylphenyl)naphth-1-ylacetamide | COC1=C(C=C(C=C1)NC(CC1=CC=CC2=C(C=CC=C12)C1=C(C=CC=C1)C)=O)N1CCN(CC1)C | C31H33N3O2
